US07420001B2
To 5-methyl-benzooxazole-2-carboxylic acid ethyl ester (170 mg) was added 2 mL of THF, and 0.83 mL (2 eq) of sodium hydroxide solution (2N in MeOH). The reaction mixture was stirred at room temperature overnight. The suspension was filtered and the solid was dried under vacuum to give 144 mg of 5-methyl-benzooxazole-2-carboxylic acid sodium salt as an off-white solid.

reactant | 5-methyl-benzooxazole-2-carboxylic acid ethyl ester | 170 mg | C(C)OC(=O)C=1OC2=C(N1)C=C(C=C2)C | C11H11NO3
reactant | sodium hydroxide | 2N, 0.83 mL, 2 eq | [OH-].[Na+]
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | 5-methyl-benzooxazole-2-carboxylic acid sodium salt | 144 mg | [Na+].CC=1C=CC2=C(N=C(O2)C(=O)[O-])C1 | InChI=1S/C9H7NO3.Na/c1-5-2-3-7-6(4-5)10-8(13-7)9(11)12;/h2-4H,1H3,(H,11,12);/q;+1/p-1
